US08252802B2
In a 3 L fixed vessel, sodium thiomethoxide (21% in water) (216 g, 646.69 mmol) was added dropwise over 5 minutes to a stirred solution of a mixture of approximately two thirds (R)-(2-chloro-6-(3-methylmorpholino)pyrimidin-4-yl)methyl methanesulfonate and one third (R)-4-(2-chloro-6-(chloromethyl)pyrimidin-4-yl)-3-methylmorpholine (130.2 g, 431 mmol) and sodium iodide (1.762 ml, 43.11 mmol) in MeCN (1 L) at RT (temperature dropped from 20° C. to 18° C. over the addition and then in the next 5 minutes rose to 30° C.). The reaction mixture was stirred for 16 hours and then diluted with EtOAc (2 L), and washed sequentially with water (750 ml) and saturated brine (1 L). The organic layer was dried over MgSO4, filtered and then evaporated to afford (R)-4-(2-chloro-6-(methylthiomethyl)pyrimidin-4-yl)-3-methylmorpholine (108 g, 91%); 1H NMR (400 MHz, DMSO-d6) 1.20 (3H, d), 2.07 (3H, s), 3.11-3.26 (1H, m), 3.44 (1H, td), 3.53 (2H, s), 3.59 (1H, dd), 3.71 (1H, d), 3.92 (1H, dd), 3.92-4.04 (1H, br s), 4.33 (1H, s), 6.77 (1H, s); m/z: (ES+) MH+, 274.36.

reactant | sodium thiomethoxide | 646.69 mmol, 216 g | C[S-].[Na+]
reactant | (R)-(2-chloro-6-(3-methylmorpholino)pyrimidin-4-yl)methyl methanesulfonate | CS(=O)(=O)OCC1=NC(=NC(=C1)N1[C@@H](COCC1)C)Cl | C11H16ClN3O4S
reactant | (R)-4-(2-chloro-6-(chloromethyl)pyrimidin-4-yl)-3-methylmorpholine | 431 mmol, 130.2 g | ClC1=NC(=CC(=N1)N1[C@@H](COCC1)C)CCl | C10H13Cl2N3O
reactant | sodium iodide | 43.11 mmol, 1.762 ml | [I-].[Na+]
solvent | MeCN | 1 L | CC#N | C2H3N
solvent | EtOAc | 2 L | CCOC(=O)C | C4H8O2
product | (R)-4-(2-chloro-6-(methylthiomethyl)pyrimidin-4-yl)-3-methylmorpholine | 108 g, 91% | ClC1=NC(=CC(=N1)N1[C@@H](COCC1)C)CSC | C11H16ClN3OS
